US05077409
p-(Tetradecyloxy)phenyl isocyanate
To a solution of 8.74 g of triphosgene in 125 ml of methylene chloride cooled to 0° C. is added dropwise a solution of p-(tetradecyloxy)aniline, 7.95 g of 125 ml of methylene chloride over 30 minutes. Stirring at ambient temperature is continued for 4 hours. The solvent is evaporated and the residue stirred with ether and filtered. The cake is washed with additional ether and the combined filtrates evaporated to give the desired product as an oil.

reactant | triphosgene | 8.74 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | p-(tetradecyloxy)aniline | C(CCCCCCCCCCCCC)OC1=CC=C(N)C=C1 | C20H35NO
solvent | methylene chloride | 125 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 125 ml, 7.95 g | C(Cl)Cl | CH2Cl2
product | p-(Tetradecyloxy)phenyl isocyanate | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)N=C=O | C21H33NO2
